US04962113
(i) Synthesis of 2-(vinyl sulfonamido)ethyl N-(1-naphthyl)carbamate
To a solution of 2-aminoethyl N-(1-naphthyl)carbamate [2.30 g(10.0 mmol.)] and triethylamine [1.53 ml(11.0 mmol.)] in chloroform(20 ml) was added, while stirring under ice-cooling, 2-chloroethanesulfonyl chloride [1.06 ml(10.0 mmol.)]. The mixture was stirred for 30 minutes under ice-cooling. The reaction mixture was washed with a 1N aqueous solution of sodium hydroxide, and dried, followed by distilling off the solvent under reduced pressure. The residue was subjected to a silica gel colum chromatography, eluting with hexane-ethyl acetate(1:1) to obtain the compound(270) [1.50 g(46.9%)] as a yellow oily product.

reactant | 2-aminoethyl N-(1-naphthyl)carbamate | 10.0 mmol, 2.30 g | C1(=CC=CC2=CC=CC=C12)NC(OCCN)=O | C13H14N2O2
reactant | triethylamine | 11.0 mmol, 1.53 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethanesulfonyl chloride | 10.0 mmol, 1.06 ml | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(vinyl sulfonamido)ethyl N-(1-naphthyl)carbamate | C1(=CC=CC2=CC=CC=C12)NC(OCCNS(=O)(=O)C=C)=O | C15H16N2O4S
